* OVERALL BEST CANDIDATE: 00_Phase_1_3_3V_Logic_to_5V_Rail_Boost_g1_cand3_b6
* FITNESS SCORE: 0.9932
*
* Generated: 2026-06-07T23:20:29
* Constraint: Phase 1: 3.3V Logic to 5V Rail (Boost)
*   vin_min = 3.0
*   vin_max = 3.6
*   vout_target = 5
*   efficiency_target = 0.75
*   power_in = 5
* Candidate: 3 of 12
* Grouped name: g1_cand3
*
* 3.3V to 5V Boost Converter
Vin in 0 3.3
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 470u
Rload out 0 10
Vgate gate 0 PULSE(0 12 0 1n 1n 3.33u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
